US06589984B1
A solution of methyl 2-methyl-3-oxononanoate (3.06 g) in THF (5 ml) was added to a suspension of 60% NaH (608 mg) in THF (30 ml) while cooling on ice, and the mixture was stirred at 0° C. for 10 minutes and then at room temperature for 30 minutes. The reaction solution was cooled to −78° C., 1.66 M n-BuLi (9.2 ml) was added, and the mixture was stirred at −78° C. for 30 minutes to prepare a dienolate. A solution of methyl 2-benzofurancarboxylate (1.25 g) in THF (5 ml) was added to the dienolate, and the mixture was stirred at −78° C. for 30 minutes. The reaction solution was brought to 0° C., an NH4Cl aqueous solution was added for quenching, and extraction was performed with AcOEt. The organic layer was rinsed with water and saturated saline in that order, and then dried with Na2SO4, filtered and concentrated. The residue was dissolved in MeOH (50 ml), and after adding 2N-LiOH (30 ml) and stirring at room temperature for 2 hours, 1N-HCl was added at 0° C. to acidity of approximately pH 3, and extraction was performed with AcOEt. The organic layer was rinsed with water and saturated saline in that order, and then dried with Na2SO4, filtered and concentrated. Pyridine (20 ml) and Ac2O (20 ml) were added to the residue, and after stirring the mixture at room temperature for 5 hours it was concentrated under reduced pressure. The residue was dissolved in MeOH (20 ml), imidazole (483 mg) was added at 0° C., and after stirring the mixture at 0° C. for 10 minutes and then at room temperature for 30 minutes, it was concentrated under reduced pressure. AcOEt was added to the residue, and the precipitated crystals were filtered off. The crystals were recrystallized from EtOH to obtain 6-(benzofuran-2-yl)-4-hydroxy-3-methyl-5-n-pentyl-2H-pyran-2-one.

reactant | methyl 2-methyl-3-oxononanoate | 3.06 g | CC(C(=O)OC)C(CCCCCC)=O | C11H20O3
reactant | NaH | 608 mg | [H-].[Na+]
reactant | n-BuLi | 1.66 M, 9.2 ml | [Li]CCCC
reactant | methyl 2-benzofurancarboxylate | 1.25 g | O1C(=CC2=C1C=CC=C2)C(=O)OC | C10H8O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-(benzofuran-2-yl)-4-hydroxy-3-methyl-5-n-pentyl-2H-pyran-2-one | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)O)CCCCC | C19H20O4
